2183-11-09 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   NSTEMI/GI
   Bleed
   24 Hour Events:
   HCT 2 hrs post transfusion 27.  Pt asympt, VSS.  NPO overnight.
   Allergies:
   No Known Drug Allergies
   Other medications:
   ASA 325mg
   Lipitor 80mg
   Protonix IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-11-9**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 76 (60 - 76) bpm
   BP: 121/40(60) {120/40(60) - 140/46(68)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    329 mL
                                                                     47 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    329 mL
                                                                     47 mL
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GENERAL:  NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   NECK: Supple with no JVP
   CARDIAC: RR, normal S1, S2. III/VI holosystolic murmur. No thrills,
   lifts. No S3 or S4.
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: R back with excoriated lesions on skin in different stages of
   healing.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   361 K/uL
   9.2 g/dL
   83 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   31 mg/dL
   104 mEq/L
   138 mEq/L
   26.4 %
   18.5 K/uL
        [image002.jpg]
                             [**2183-11-9**]  02:03 AM
                             [**2183-11-9**]  05:23 AM
   WBC
   15.7
   18.5
   Hct
   27.6
   26.4
   Plt
   394
   361
   Cr
   1.5
   TropT
   0.22
   Glucose
   83
   Other labs: CK / CKMB / Troponin-T:1707/28/0.22, Mg++:2.5 mg/dL
   Assessment and Plan
   68 y/o M with NSTEMI in setting of demand ischemia from GI bleed and
   likely reactive leukocytosis, presenting with renal insufficiency of
   unknown chronicity.
   .
   # NSTEMI:  Patient with 2 day history of dyspnea and chest discomfort.
   EKG shows no ST elevations, no tracing for comparison.  Unknown
   coronary anatomy, ischemia may have been precipitated by anemia, likely
   sec to GI bleed.  Pt received ASA 325mg.  CE trending down.
   - In setting GI bleed, hold on plavix or BB
   -Cont aspirin
   - Cont Atorvastatin 80mg
   - Peinding Lipid panel
   - Likely will need cath.  Will need to discuss with GI whether patient
   is candidate for scope prior to cath.
   .
   # GI Bleed:  Hemodynamically stable.  Unclear if upper or lower.  Guiac
   positive.  s/p 2u PRBCs, HCT did not respond appropriately.  HCT this
   AM 26, patient is likely bleeding.  Patient has had no episodes of
   melena while in CCU.  Recommended transfusing patient as needed.
   -IV Protonix per GI
   -Obtain OSH records of previous EGD/colonoscopy
   - Consult with GI
   - Hold on BB in light of possible GI bleed.
   .
   # Leukocytosis:  WBC 17.2, 23.2 yesterday at PCP's office.  Patient
   afebrile.  VSS.  BC pending, U/A negative, Lactate 1.0.
   - Monitor temps, likely reactive.
   .
   # Acute on Chronic Renal Failure:  Unclear baseline.  Improved this AM
   to 1.5.  Likely secondary to poor forward flow. FENA 1.
   - Renally dose meds
   -Monitor Creatinine
   .
   #  Records:  Patient states much of his care is at [**Hospital1 12**].
   - Will obtain records from [**Hospital1 12**].
   .
   FEN: NPO
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Bowel regimen Colace/Senna
   CODE: FULL
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-11-9**] 12:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2183-11-10 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Heparin gtt stopped.  GI, no scope for now.  Tox (coc +).  Statin
   stopped for elevated CKs.  CK/Trop d/w fellow.  OSH recodes obtained.
   ? restart home meds.
   Feels ok.  Ready to go home
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH notable for MSRA osteomyelitis (finger), possible dermatomyositis,
   h/o cocaine, EtOH use.  HTN, HL. Scheduled for MV and AV replacement.
   CAD with 30% stenosis of LMCA and RCA.  Recently discharged for GI
   Bleed in setting of prednisone use.  Multiple other medical problems in
   chart.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-11-10**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 63 (61 - 78) bpm
   BP: 135/45(66) {104/27(53) - 166/79(84)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,590 mL
                                                                    440 mL
   PO:
                                                                  1,080 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    176 mL
   Blood products:
                                                                    334 mL
   Total out:
                                                                  1,330 mL
                                                                    350 mL
   Urine:
                                                                  1,330 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GENERAL:  NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   NECK: Supple with no JVP
   CARDIAC: RR, normal S1, S2. III/VI holosystolic murmur. No thrills,
   lifts. No S3 or S4.
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: R back with excoriated lesions on skin in different stages of
   healing.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
                                     137
                               [image002.gif]
                                     103
                               [image002.gif]
                                     18
   [image004.gif]
   98
                                                                   AGap=11
   [image005.gif]
   4.2
                               [image002.gif]
                                     27
                               [image002.gif]
                                     1.2
   [image007.gif]
   CK: 2553
   MB: 32
   MBI: 1.3
   Trop-T: 0.24
   Comments:
   cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi
   [**68**]
                                                                      15.1
                                                            [image007.gif]
                                    11.2
   [image004.gif]
   389
                 [image008.gif]
   [image004.gif]
                                    33.6
   [image007.gif]
   PT: 14.2
   PTT: 28.7
   INR: 1.2
                             [**2183-11-9**]  02:03 AM
                             [**2183-11-9**]  05:23 AM
                             [**2183-11-9**]  12:15 PM
                             [**2183-11-9**]  06:30 PM
                             [**2183-11-9**]  11:52 PM
   WBC
   15.7
   18.5
   15.8
   Hct
   27.6
   26.4
   27.8
   32.5
   Plt
   394
   361
   388
   Cr
   1.5
   1.4
   TropT
   0.22
   0.23
   0.22
   0.26
   Glucose
   83
   81
   Other labs: PT / PTT / INR:14.3/27.1/1.2, CK / CKMB /
   Troponin-T:2755/33/0.26, ALT / AST:54/82, LDH:444 IU/L, Mg++:2.5 mg/dL
   Urine tox: cocaine.
   Assessment and Plan
   68 y/o M with NSTEMI in setting of demand ischemia from GI bleed and
   cocaine use, likely reactive leukocytosis, presenting with renal
   insufficiency of unknown chronicity and CK elevations.
   .
   # NSTEMI:  Patient with 2 day history of dyspnea and chest discomfort.
   EKG shows no ST elevations, no tracing for comparison.  Patient's 1st
   set of cardiac enzymes showed CK 1874, CK-MB 32, Trop-T 0.23,
   consistent with NSTEMI.  Dramatic CK elevation suggestive of cocaine
   use but may represent dermatomyositis.  Unknown coronary anatomy,
   ischemia may have been precipitated by anemia, unclear etiology.  Pt
   received ASA 325mg.  CE trending down.
   - In setting GI bleed, hold on plavix or BB
   - aspirin, Atorvastatin 80mg
   - Lipid panel shows low risk.
   - Cath here would be inappropriate given multiple complex medical
   issues currently dealt with at [**Hospital1 12**].
   .
   # GI Bleed:  Hemodynamically stable.  Unclear if upper or lower.  Guiac
   positive.  HCT in ER 23.5, may have cause secondary ischemia.  GI saw
   patient in ER and recommending holding off scope in setting of NSTEMI.
   Recommended transfusing patient as needed.  Transfused 2u PRBCs plus 1u
   more.  Now stable Hct.  OSH colonoscopy with AVMs, polyps, known recent
   GI bleed.
   -IV Protonix
   -No scope for now given NSTEMI
   .
   # Dermatomyositis: Unclear basis for this diagnosis.  No evidence of
   biopsy.  Would consider restarting prednisone if CK remain persistently
   high.
   .
   # Cocaine use:  Patient was counseled about the cardiac dangers of this
   drug.  Denies use.
   - SW c/s
   .
   # Leukocytosis:  WBC 17.2, 23.2 yesterday at PCP's office.  Patient
   afebrile.  VSS.  BC pending, U/A negative, Lactate 1.0.
   - Monitor temps
   .
   # Acute on Chronic Renal Failure:  Unclear baseline.  Likely secondary
   to poor forward flow.  Cr improving.  FENA 1.
   - Renally dose meds
   - Monitor Creatinine
   .
   # Plan of care:  Patient would likely be better served at [**Hospital1 12**] where he
   is well known and has all medical records.  Will attempt to initiate
   transfer according to patient
s wishes.
   .
   FEN: NPO
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Bowel regimen Colace/Senna
   CODE: FULL
   DISPO: CCU for now
            . IV access: Peripheral line Order date: [**11-8**] @ 2340
   6. Oxycodone-Acetaminophen 2 TAB PO ONCE Duration: 1 Doses Order date:
   [**11-9**] @ 2152
   2. Aspirin 325 mg PO DAILY  Order date: [**11-8**] @ 2340
   7. Pantoprazole 40 mg IV Q24H  Order date: [**11-8**] @ 2340
   3. Docusate Sodium 100 mg PO BID  Order date: [**11-8**] @ 2340
   8. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**11-8**] @
   2335
   4. Gabapentin 200 mg PO DAILY  Order date: [**11-10**] @ 0550
   9. Sarna Lotion 1 Appl TP [**Hospital1 **]:PRN  Order date: [**11-10**] @ 1156
   5. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-8**] @ 2335
   10. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-8**] @ 2340

2183-11-11 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Started on home meds.
   S: Feeling well.  Ready to go home.  Only pain is from Zoster lesions.
   No CP, SOB.
   Telemetry: PVCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-11-10**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-11-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 80 (64 - 90) bpm
   BP: 138/46(66) {114/38(58) - 150/64(75)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,190 mL
                                                                    120 mL
   PO:
                                                                  1,180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    675 mL
   Urine:
                                                                  1,775 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -555 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL:  NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
   NECK: Supple with no JVP
   CARDIAC: RR, normal S1, S2. III/VI holosystolic murmur. No thrills,
   lifts. No S3 or S4.
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: R back with excoriated lesions on skin in different stages of
   healing.
   Labs / Radiology
   337 K/uL
   10.8 g/dL
   95 mg/dL
   1.5 mg/dL
   23 mEq/L
   5.1 mEq/L
   19 mg/dL
   101 mEq/L
   134 mEq/L
   31.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2183-11-9**]  02:03 AM
                             [**2183-11-9**]  05:23 AM
                             [**2183-11-9**]  12:15 PM
                             [**2183-11-9**]  06:30 PM
                             [**2183-11-9**]  11:52 PM
                            [**2183-11-10**]  09:10 AM
                            [**2183-11-10**]  06:22 PM
                            [**2183-11-11**]  03:01 AM
   WBC
   15.7
   18.5
   15.8
   15.1
   12.7
   Hct
   27.6
   26.4
   27.8
   32.5
   33.6
   33.8
   31.0
   Plt
   394
   361
   388
   389
   337
   Cr
   1.5
   1.4
   1.2
   1.5
   TropT
   0.22
   0.23
   0.22
   0.26
   0.24
   Glucose
   83
   81
   98
   95
   Other labs: PT / PTT / INR:14.2/28.7/1.2, CK / CKMB /
   Troponin-T:2553/32/0.24, ALT / AST:54/82, LDH:444 IU/L, Mg++:2.1 mg/dL
   BCx: NGTD
   ECHO:  The left atrium is moderately dilated. The right atrium is
   moderately dilated. The estimated right atrial pressure is 0-5 mmHg.
   Left ventricular wall thickness, cavity size and regional/global
   systolic function are normal (LVEF >55%). Left ventricular systolic
   function is hyperdynamic (EF>75%). Right ventricular chamber size is
   normal. with normal free wall contractility. The aortic valve leaflets
   (3) are mildly thickened. There is a minimally increased gradient
   consistent with minimal aortic valve stenosis. Moderate to severe (3+)
   aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. The mitral valve shows characteristic rheumatic deformity.
   There is no mitral valve prolapse. There is mild valvular mitral
   stenosis (area 1.5-2.0cm2). Moderate to severe (3+) mitral
   regurgitation is seen. There is severe pulmonary artery systolic
   hypertension. Severe pulmonic regurgitation is seen. There is no
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2183-8-12**], the
   findings are similar with multi-valvular rheumatic heart disease. The
   left ventricular function remains hyperdynamic with no regional wall
   motion abnormalities.
   Assessment and Plan
   68 y/o M with NSTEMI in setting of demand ischemia from GI bleed and
   cocaine use, likely reactive leukocytosis, presenting with renal
   insufficiency of unknown chronicity and CK elevations.
   .
   # NSTEMI:  Patient with 2 day history of dyspnea and chest discomfort.
   EKG shows no ST elevations, no tracing for comparison.  Patient's 1st
   set of cardiac enzymes showed CK 1874, CK-MB 32, Trop-T 0.23,
   consistent with NSTEMI.  Dramatic CK elevation suggestive of cocaine
   use but may represent dermatomyositis.  Cath on [**2183-8-18**] with 30% LMCA
   and RCA stenosis, ischemia may have been precipitated by anemia,
   unclear etiology.  Pt received ASA 325mg.  CE trending down.
   - In setting GI bleed, hold on plavix or BB
   - aspirin, Atorvastatin 80mg
   - Lipid panel shows low risk.
   - Cath does not indicated given no new chest pain or EKG changes and
   recent clean cath.
   .
   # GI Bleed:  Hemodynamically stable.  Unclear if upper or lower.  Guiac
   positive.  HCT in ER 23.5, may have cause secondary ischemia.  GI saw
   patient in ER and recommending holding off scope in setting of NSTEMI.
   Recommended transfusing patient as needed.  Transfused 2u PRBCs plus 1u
   more.  Now stable Hct.  OSH colonoscopy with AVMs, polyps, known recent
   GI bleed.
   -PO  Protonix
   -No scope for now given NSTEMI
   .
   # Dermatomyositis: Unclear basis for this diagnosis.  No evidence of
   biopsy.  Would consider restarting prednisone if CK remain persistently
   high.
   .
   # Zoster: neurontin 300 mg.
   .
   # Cocaine use:  Patient was counseled about the cardiac dangers of this
   drug.  Denies use.
   - SW c/s
   .
   # Leukocytosis:  WBC 17.2, 23.2 yesterday at PCP's office.  Patient
   afebrile.  VSS.  BC pending, U/A negative, Lactate 1.0.
   - Monitor temps
   .
   # Acute on Chronic Renal Failure:  Unclear baseline.  Likely secondary
   to poor forward flow.  Cr improving.  FENA 1.
   - Renally dose meds
   - Monitor Creatinine
   .
   # Plan of care:  Patient would likely be better served at [**Hospital1 12**] where he
   is well known and has all medical records.  Will attempt to initiate
   transfer according to patient
s wishes.
   .
   FEN: NPO
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Bowel regimen Colace/Senna
   CODE: FULL
   DISPO: Home with follow up in one week with [**Hospital1 12**] physicians.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: